US06060459
Preparation of (Nα-FMOC-lysyl)guanosine
A solution of 1.0 g of (Nα-FMOC-Nε-CBZ-lysyl)guanosine in 150 mL of DMF was hydrogenated for 3.5 hr at 48 psi in the presence of 0.7 g of 10% Pd/C. The mixture was filtered and the filtrate evaporated and then treated with 30 mL of EtOH followed by 20 mL of H2O. The resulting solid was recrystallized from MeOH-EtOAc.

reactant | (Nα-FMOC-Nε-CBZ-lysyl)guanosine | 1.0 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C39H41N7O10
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.7 g | [Pd] | Pd
product | (Nα-FMOC-lysyl)guanosine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CCCCN)C(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C31H35N7O8
